US04604388
2,3-Dihydro-2-[1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one
To a solution of 4.92 g (0.02 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepin-5-(4H)one in 35 ml of dimethylformamide was added 7.55 g (0.041 mole) of potassium phthalimide. The mixture was stirred for 5 hr at 100° C. and left standing at room temperature overnight. Dimethylformamide was removed by rotary evaporation (80° C. vacuum pump). The residue was taken up in 100 ml of chloroform and washed with water (2×30 ml) and 2M potassium hydroxide (2×3 ml). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated by rotary evaporation (70° C., water aspirator). The 6.26 g of crude product was recrystallized from isopropyl alcohol to give 2.60 g (36%) white crystalline powder, m.p. 146°-47° C.

reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepin-5-(4H)one | 0.02 mole, 4.92 g | ClCCC1OC2=C(C(N(C1)C)=O)C=CC=N2 | C11H13ClN2O2
reactant | potassium phthalimide | 0.041 mole, 7.55 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 2,3-Dihydro-2-[1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one | 2.60 g, 36% | O=C1N(C(C2=CC=CC=C12)=O)CCC1OC2=C(C(N(C1)C)=O)C=CC=N2 | C19H17N3O4
